US09315521B2
6-methyl-2-sulfanylpyrimidin-4-ol (867 mg, 6.1 mmol) was dissolved in absolute ethanol (130 mL), and then triethylamine (3.75 mL, 27.3 mmol) and 2-(bromomethyl)pyrimidine (1.57 g, 9.1 mmol) were added. The mixture was stirred overnight at room temperature. The solid was removed by filtration, and the filtrate was evaporated. The residue was triturated in water, filtered, and washed with water followed with diethyl ether. The solid was then dissolved in DCM and purified on silica gel using 10% DCM/MeOH to afford 6-methyl-2-[(pyrimidin-2-ylmethyl)sulfanyl]pyrimidin-4-ol (326 mg, 23% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.13 (s, 3H), 4.67 (s, 2H), 6.02 (bs, 1H), 7.42 (t, J=4.9 Hz, 1H), 8.78 (d, J=4.9 Hz, 2H); LRMS (ES+) m/z 235 (100%, M+1).

reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | 6.1 mmol, 867 mg | CC1=CC(=NC(=N1)S)O | C5H6N2OS
reactant | triethylamine | 27.3 mmol, 3.75 mL | C(C)N(CC)CC | C6H15N
reactant | 2-(bromomethyl)pyrimidine | 9.1 mmol, 1.57 g | BrCC1=NC=CC=N1 | C5H5BrN2
solvent | ethanol | 130 mL | C(C)O | C2H6O
product | 6-methyl-2-[(pyrimidin-2-ylmethyl)sulfanyl]pyrimidin-4-ol | 326 mg, 23% yield | CC1=CC(=NC(=N1)SCC1=NC=CC=N1)O | C10H10N4OS
